US05356898
5-[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-1,3,4-oxadiazole-2(3H)-one
4,6-Bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy) methoxy]-2-pyrimidine carboxylic acid hydrazide (1.0 g, 2.8 mmoles), carbonyl diimidazole (0.7 g, 4.2 mmoles), and triethylamine (0.6 g, 5.9 mmoles) are combined in 20 mL of THF and the reaction mixture is stirred at room temperature under argon for 64 hours. The reaction is quenched with 50 mL of 10% HOAc/H2O. The organics are extracted into ether (3×30 mL) and washed with 50 nil of brine. The solvent is evaporated and the residue is taken up in 20 mL of acetic acid. The reaction mixture is warmed to reflux for 18 hours. It is cooled to room temperature and diluted with 150 mL of H2O. The organics are extracted into EtOAc (3×100 mL) and washed with H2O (3×100 mL) followed by brine (3×100 mL). The solvent is evaporated, and the remaining oil is purified by flash chromatography (50% EtOAc|Hexane). Yield of 5-[4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-1,3,4-oxadiazole-2 (3H)-one=0.11 g (13%), mp 230°-232° C.

reactant | 4,6-Bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy) methoxy]-2-pyrimidine carboxylic acid hydrazide | 2.8 mmoles, 1.0 g | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C(=O)NN | C17H30N4O4
reactant | carbonyl diimidazole | 4.2 mmoles, 0.7 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | triethylamine | 5.9 mmoles, 0.6 g | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-1,3,4-oxadiazole-2(3H)-one | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C1=NNC(O1)=O | C14H20N4O3
